US06492370B1
(2S)-2-[3-[2-(Benzyloxycarbonylthio)ethyl]-3-phenethylureido]-3-phenylpropionic acid (Compound No. 12-1)
(2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]-3-phenylpropionic acid (Compound No. 11-1, 108 mg) is dissolved in anhydrous methylene chloride (1.5 ml) under a nitrogen atmosphere, and the solution is stirred. To the solution are added N,N-diisopropylethylamine (0.07 ml) and benzyloxycarbonyl chloride (0.05 ml) successively under ice cooling, and the mixture is stirred at room temperature overnight. The reaction mixture is concentrated under reduced pressure, water is added to the residue, and the whole is extracted with ethyl acetate. The organic layer is washed with a 10% aqueous citric acid solution, water and saturated brine successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 102 mg (69%) of the titled compound (Compound No. 12-1).

reactant | (2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]-3-phenylpropionic acid | SCCN(C(N[C@H](C(=O)O)CC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C20H24N2O3S
reactant | N,N-diisopropylethylamine | 0.07 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyloxycarbonyl chloride | 0.05 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-[3-[2-(Benzyloxycarbonylthio)ethyl]-3-phenethylureido]-3-phenylpropionic acid | 102 mg, 69% | C(C1=CC=CC=C1)OC(=O)SCCN(C(N[C@H](C(=O)O)CC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C28H30N2O5S
